US07994336B2
c) Synthesis of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid (General Procedure)
To a solution of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester (15 g) in a mixture of THF (60 mL) and MeOH (20 mL) was added a solution of sodium hydroxide (2.63 g) in water (60 mL). The reaction mixture was stirred at RT for 30 min. The reaction mixture was then concentrated in vacuo, and the residue was dissolved with water (100 mL) and concentrated again in vacuo. The residue was dissolved in water (250 mL), cooled to 0° C. with a ice-bath. Then was added a solution of conc.HCl (37%)(7.72 g) in water (7.72 g) and stirred at 0° C. for 15 min. The resulting precipitate was filtered off, washed with water and dried in high vacuum pump. to give the title compound as a white solid (13.16 g, 93%).

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester | 15 g | COC(=O)C=1N=C(SC1C1=CC=C(C=C1)F)C | C12H10FNO2S
reactant | sodium hydroxide | 2.63 g | [OH-].[Na+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
solvent | water | 60 mL | O | H2O
product | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | 13.16 g, 93% | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
